US07867774B2
Synthesis of 2-chloro-4,6-di-(2-(diisopropylamino)ethoxy)-1,3,5-triazine
To 27.6 g (190 mmole) of 2-(diisopropylamino)ethanol, 6.83 g (81 mmole) of sodium bicarbonate, and 1.3 mL (70 mmole) of deionized water at room temperature was added 5.0 g (27 mmole) of cyanuric chloride. The temperature of the solution was raised to 30° C. and stirred for 1 hour at which time the evolution of carbon dioxide ceased. The temperature of the solution was raised to 45° C. and stirring was continued overnight. After cooling, the mixture was filtered, and the solids rinsed with methylene chloride. The combined filtrates were concentrated in vacuo to 6 g of 2-chloro-4,6-di-(2-(diisopropylamino)ethoxy)-1,3,5-triazine as a liquid.

reactant | 2-(diisopropylamino)ethanol | 190 mmole, 27.6 g | C(C)(C)N(CCO)C(C)C | C8H19NO
reactant | sodium bicarbonate | 81 mmole, 6.83 g | C([O-])(O)=O.[Na+]
reactant | water | 70 mmole, 1.3 mL | O | H2O
reactant | cyanuric chloride | 27 mmole, 5.0 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | carbon dioxide | C(=O)=O | CO2
product | 2-chloro-4,6-di-(2-(diisopropylamino)ethoxy)-1,3,5-triazine | ClC1=NC(=NC(=N1)OCCN(C(C)C)C(C)C)OCCN(C(C)C)C(C)C | C19H36ClN5O2
